US05302720
A mixture of 4-methanesulphonyliodobenzene (18 g), 2-bromonitrobenzene (12.7 g) and copper powder (12 g) was heated at 120° C. for 30 hours to yield a residue which was purified by chromatography on a silica column eluted successively with 5:95 mixture, a 10:90 mixture, a 25:75 mixture and then a 40:60 mixture of ethylacetate and hexane to give 4'-methanesulphonyl-2-nitrobiphenyl (m.p. 178° C.). 4'-methanesulphonyl-2-nitrobiphenyl (5 g) was heated at 90°-95° C. for 6 hours with hydrated sodium sulphide (17.3 g) and ethanol (100 ml) to give 2-amino-4'-methanesulphonylbiphenyl (m.p. 164°-165° C.).

reactant | 4'-methanesulphonyl-2-nitrobiphenyl | 5 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4'-methanesulphonylbiphenyl | NC1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C | C13H13NO2S
